US05021602
The 1,2-bis(4-isocyanatophenoxy)hexafluorocyclobutane (1.0 g, 2.3 mmol) is dissolved in 5 ml of toluene. Concentrated hydrochloric acid (10 ml) is added, and the mixture is heated to 80° C. for 2.5 hours. The mixture is neutralized and extracted with ether. The ether extracts are concentrated to yield 0.8 g (92% yield) of 1,2-bis(4-aminophenoxy)hexafluorocyclobutane. The product is identified by 19F NMR, 1 H NMR, and IR spectra. IR (cm-1): 3400 (NH2).

reactant | 1,2-bis(4-isocyanatophenoxy)hexafluorocyclobutane | 2.3 mmol, 1.0 g | N(=C=O)C1=CC=C(OC2(C(C(C2(F)F)(F)F)(OC2=CC=C(C=C2)N=C=O)F)F)C=C1 | C18H8F6N2O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-bis(4-aminophenoxy)hexafluorocyclobutane | 0.8 g, 92% yield | NC1=CC=C(OC2(C(C(C2(F)F)(F)F)(OC2=CC=C(C=C2)N)F)F)C=C1 | C16H12F6N2O2
